US04656298
To a solution of 8.0 g of ethyl 3-oxobutyl(diethoxymethyl)phosphinate in 100 ml of methanol is added 22.8 g of ammonium acetate and 1.3 g of sodium cyanoborohydride. The mixture is stirred under an atmosphere of nitrogen at room temperature for a period of 2.5 h, and then left to stand overnight. The mixture is then acidified to pH 2 with the requisite amount of dilute hydrochloric acid and the methanol is evaporated under reduced pressure. The crude product is dissolved in 25 ml of water, washed twice with 20 ml of diethyl ether and the aqueous phase is then made alkaline to pH 12 with potassium hydroxide. The solution is then saturated with sodium chloride and extracted with 3×25 ml of dichloromethane. The organic phase is dried over magnesium sulphate, filtered and evaporated under reduced pressure and the crude product distilled to give ethyl 3-aminobutyl(diethoxymethyl)phosphinate, b.p. 150° C./0.01 mbar, 31P=+46.1 ppm (CDCl3).

reactant | ethyl 3-oxobutyl(diethoxymethyl)phosphinate | 8.0 g | O=C(CCP(OCC)(=O)C(OCC)OCC)C | C11H23O5P
reactant | ammonium acetate | 22.8 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 1.3 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | ethyl 3-aminobutyl(diethoxymethyl)phosphinate | NC(CCP(OCC)(=O)C(OCC)OCC)C | C11H26NO4P
